.title KiCad schematic with shared OPA379 preamplifier
.include "OPA379.LIB"
.include "BAT54WT.lib"
.include "LPV7215.lib"

* Board-wide microphone and preamplifier defaults. Generated run parameters
* override these values without changing this tracked template.



XU2 Net-_U2-+_ Net-_U1--_ 1.8V GND Net-_C2-Pad1_ OPA379
R3 0.9V Net-_U2-+_ {R2}
R2 Net-_U2-+_ v_filt {R2}
V2 1.8V 0.9V DC 0.9
V3 Net-_V3-Pad1_ GND DC {VMIC}
V1 0.9V GND DC 0.9
R6 0.9V Net-_U3-+_ {R6}
R4 v_filt Net-_D1-A_ {R4}
R5 Net-_D1-A_ v_env {R5}
D1 Net-_D1-A_ Net-_D1-K_ Dbat54wt1
XU3 Net-_U3-+_ Net-_D1-A_ 1.8V GND Net-_D1-K_ OPA379
D2 Net-_D1-K_ v_env Dbat54wt1
R7 v_thr 1.8V {R7}
R8 GND v_thr {R8}
C3 v_env GND {C3}
XU4 v_env v_thr 1.8V GND v_comp LPV7215
RA2 Net-_U1--_ v_filt {RA}
XU1 Net-_U1-+_ Net-_U1--_ 1.8V GND v_filt OPA379
C2 Net-_C2-Pad1_ Net-_U1--_ {C1}
R1 vin Net-_U1-+_ {R1}
C1 0.9V Net-_U1-+_ {C1}
RA1 Net-_C2-Pad1_ Net-_U1-+_ {RA}
V4 v_mic Net-_V3-Pad1_ DC 0 SIN(0 0.0001 5000 0 0 0)
Rmic1 v_mic Net-_Cc1-Pad1_ {Rmic}
Cc1 Net-_Cc1-Pad1_ v_pre {Cc}
Rpre1 v_pre 0.9V {Rpre1}
XU5 v_pre Net-_U5--_ 1.8V GND vin OPA379
Rpre2 vin Net-_U5--_ {Rpre2}
Rpre3 Net-_U5--_ 0.9V {Rpre3}
.param RA = 130000
.param R1 = 562000
.param R2 = 100000
.param R4 = 50000
.param R5 = 125000
.param R6 = 45450
.param R7 = 472220
.param R8 = 527780
.param C1 = 2.2e-10
.param C3 = 2.2e-09
.param VMIC = 0.55
.param Rmic = 5100
.param Cc = 1e-07
.param Rpre1 = 470000
.param Rpre2 = 90000
.param Rpre3 = 10000
.control
  tran 2u 60m
  meas tran vmax MAX v(v_env) from=40m to=60m
  print vmax
.endc
.end
